US04731443
Vilsmeier reagent prepared from N,N-dimethylformamide (3.76 ml) and phosphorus oxychloride (4.46 ml) was suspended in dry tetrahydrofuran (50 ml). To the suspension was added 4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyric acid (syn isomer) (10.5 g), and the mixture was stirred under ice-cooling to prepare the activated acid solution. This solution was added at a time to a solution of 7-amino-3-vinyl-3-cephem-4-carboxylic acid (10 g) and trimethylsilylacetamide (35 g) in ethyl acetate (110 ml) at -30° C. After the reaction mixture was stirred at -15° C. for an hour, the resultant solution was poured into water (100 ml) and then extracted with ethyl acetate (200 ml). The extract was washed with a saturated aqueous sodium chloride and dried over magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was triturated with diisopropyl ether to give 7-(4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyramido)-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (16.75 g).

reactant | Vilsmeier reagent | C[N+](=CCl)C.[Cl-]
reactant | phosphorus oxychloride | 4.46 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyric acid | 10.5 g | ClCC(C(C(=O)O)=NOCC(=O)OC)=O | C7H8ClNO6
reactant | 7-amino-3-vinyl-3-cephem-4-carboxylic acid | 10 g | NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O | C9H10N2O3S
reactant | trimethylsilylacetamide | 35 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 110 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 3.76 ml | CN(C=O)C | C3H7NO
product | 7-(4-chloro-2-methoxycarbonylmethoxyimino-3-oxobutyramido)-3-vinyl-3-cephem-4-carboxylic acid | 16.75 g | ClCC(C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)O)C1=O)=NOCC(=O)OC)=O | C16H16ClN3O8S
